US07968538B2
5-(1,4-Diazepan-1-yl)-2-nitro-N-(1-phenylethyl)benzenamine hydrochloride
To a solution of t-butyl 4-(3-(1-phenylethylamino)-4-nitrophenyl)-1,4-diazepane-1-carboxylate (0.1 mmol) in dry dichloromethane (1.0 mL) was added a saturated solution of HCl in diethyl ether (20 mL). The reaction mixture was stirred for 2 h. The solvent was removed by rotary evaporation to afford the title compound (68%). 1H NMR (400 MHz, CD3OD): δ 7.99 (d, 1H), 7.52 (m, 5H), 6.36 (d, 1H), 5.86 (s, 1H), 4.75 (m, 1H), 3.52 (m, 2H), 3.45 (m, 2H), 3.17 (m, 4H), 1.81 (m, 2H), 1.60 (d, 3H); MS (ESI) m/z: Calculated: 376.8; Observed: 341.5 (M++1).

reactant | t-butyl 4-(3-(1-phenylethylamino)-4-nitrophenyl)-1,4-diazepane-1-carboxylate | 0.1 mmol | C1(=CC=CC=C1)C(C)NC=1C=C(C=CC1[N+](=O)[O-])N1CCN(CCC1)C(=O)OC(C)(C)C | C24H32N4O4
reactant | HCl | Cl | ClH
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 5-(1,4-Diazepan-1-yl)-2-nitro-N-(1-phenylethyl)benzenamine hydrochloride | 68% | Cl.N1(CCNCCC1)C=1C=CC(=C(C1)NC(C)C1=CC=CC=C1)[N+](=O)[O-] | InChI=1S/C19H24N4O2.ClH/c1-15(16-6-3-2-4-7-16)21-18-14-17(8-9-19(18)23(24)25)22-12-5-10-20-11-13-22;/h2-4,6-9,14-15,20-21H,5,10-13H2,1H3;1H
